US04061761
3-sec.-Butyl-2-sec.-butylimino-4-(4-chloro-3-sulfamoylphenyl)-1,3-thiazolidine-4-ol-hydrochloride
5.3 g of 2,4'-dichloro-3'-sulfamoylacetophenone and 3.8 g of 1,3-di-sec.-butylthiourea were reacted in the manner described in Example 16, the reaction was introduced into a solution of 40 ml of diethyl ether and 120 ml of ethyl acetate and the colorless, crystalline end product was filtered off after stirring for 4 hours at room temperature.

reactant | 2,4'-dichloro-3'-sulfamoylacetophenone | 5.3 g | ClCC(=O)C1=CC(=C(C=C1)Cl)S(N)(=O)=O | C8H7Cl2NO3S
reactant | 1,3-di-sec.-butylthiourea | 3.8 g | C(C)(CC)NC(=S)NC(C)CC | C9H20N2S
reactant | diethyl ether | 40 ml | C(C)OCC | C4H10O
solvent | ethyl acetate | 120 ml | C(C)(=O)OCC | C4H8O2
product | 3-sec.-Butyl-2-sec.-butylimino-4-(4-chloro-3-sulfamoylphenyl)-1,3-thiazolidine-4-ol-hydrochloride | Cl.C(C)(CC)N1C(SCC1(O)C1=CC(=C(C=C1)Cl)S(N)(=O)=O)=NC(C)CC | InChI=1S/C17H26ClN3O3S2.ClH/c1-5-11(3)20-16-21(12(4)6-2)17(22,10-25-16)13-7-8-14(18)15(9-13)26(19,23)24;/h7-9,11-12,22H,5-6,10H2,1-4H3,(H2,19,23,24);1H
